US08071584B2
1,1-Dimethylethyl 6-fluoro-2,3-dihydro-1H-indole-1-carboxylate
To a stirred solution of 6-fluoro-2,3-dihydro-1H-indole (21.2 g, 0.155 mol) in DCM (250 mL) was added Et3N (54 mL, 0.388 mol) and Boc2O (39.3 g, 0.171 mol). The reaction mixture was stirred at room temperature overnight and then diluted with water (200 mL). The layers were separated, and the aqueous fraction extracted with DCM (3×50 mL). The combined organic extracts were washed with water (2×100 mL), 20% citric acid (2×100 mL) and brine (1×100 mL). The organic layer was then dried (Na2SO4) and concentrated. The resulting crude product was taken up in toluene and hexanes, and silica gel was added. The mixture was filtered and concentrated. The residue was taken up in DCM, and imidazole (13.5 g, 0.198 mol) was added. The mixture was then washed with water (100 ml), HCl (0.5%; 2×100 ml) and brine (50 ml), dried (Na2SO4) and concentrated, giving 8.6 g (23%) of the title compound.

reactant | 6-fluoro-2,3-dihydro-1H-indole | 0.155 mol, 21.2 g | FC1=CC=C2CCNC2=C1 | C8H8FN
reactant | Et3N | 0.388 mol, 54 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 0.171 mol, 39.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | imidazole | 0.198 mol, 13.5 g | N1C=NC=C1 | C3H4N2
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 1,1-Dimethylethyl 6-fluoro-2,3-dihydro-1H-indole-1-carboxylate | 8.6 g, 23% | FC1=CC=C2CCN(C2=C1)C(=O)OC(C)(C)C | C13H16FNO2
